US07902385B2
Synthesis of 2-methyl-4-oxatricyclo[5.2.1.02,6]decan-3-yl methacrylate
A mixture of 73 g of 2-methyl-4-oxatricyclo[5.2.1.02,6]-decan-3-yl acetate, 150 g of methacrylic acid, and 40 mg of 2,2′-methylenebis(6-t-butyl-p-cresol) was heated at 50° C. under atmospheric pressure for 30 minutes, after which under a reduced pressure of 0.20 kPa, the reaction mixture was heated for 18 hours for distilling off the acetic acid formed. The reaction mixture was purified by distillation, obtaining 72 g (yield 91%) of the target compound.

reactant | 2-methyl-4-oxatricyclo[5.2.1.02,6]-decan-3-yl acetate | 73 g | C(C)(=O)OC1C2(C3CCC(C2CO1)C3)C | C12H18O3
reactant | methacrylic acid | 150 g | C(C(=C)C)(=O)O | C4H6O2
catalyst | 2,2′-methylenebis(6-t-butyl-p-cresol) | 40 mg | C(C1=CC(=CC(=C1O)C(C)(C)C)C)C1=CC(=CC(=C1O)C(C)(C)C)C | C23H32O2
product | 2-methyl-4-oxatricyclo[5.2.1.02,6]decan-3-yl methacrylate | 72 g, yield 91% | C(C(=C)C)(=O)OC1C2(C3CCC(C2CO1)C3)C | C14H20O3
